US07534894B2
A mixture of 4-{[(tert-butoxycarbonyl)amino]methyl}-4′-hydroxy-1,1′-biphenyl (2.05 g, 6.85 mmol), prepared in the previous step, methyl bromoacetate (648 μL, 6.85 mmol) and potassium carbonate (4.73 g, 34.2 mmol) in 50 mL of DMF was stirred under nitrogen at room temperature for 20 h (overnight). The reaction was partitioned between ethyl acetate and water. The organic layer was separated, extracted multiple times with water, dried (MgSO4) and the solvent removed under reduced pressure to give methyl[(4′-{[(tert-butoxycarbonyl)amino]methyl}[1,1′-biphenyl]-4-yl)oxy]acetate (2.46 g, 97%) as an off-white solid, mp 111-113° C. Elemental Analysis for C21H25NO5. Calc'd: C, 67.91; H, 6.78; N, 3.77 Found: C, 67.70; H, 6.74; N, 3.72

reactant | 4-{[(tert-butoxycarbonyl)amino]methyl}-4′-hydroxy-1,1′-biphenyl | 6.85 mmol, 2.05 g | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)C1=CC=C(C=C1)O | C18H21NO3
reactant | methyl bromoacetate | 6.85 mmol, 648 μL | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 34.2 mmol, 4.73 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | methyl[(4′-{[(tert-butoxycarbonyl)amino]methyl}[1,1′-biphenyl]-4-yl)oxy]acetate | 2.46 g, 97% | COC(COC1=CC=C(C=C1)C1=CC=C(C=C1)CNC(=O)OC(C)(C)C)=O | C21H25NO5
